US04496560
Following the working method described in Example 4, 3-[2-(4-acetamido-phenyl)-thiazol-5-yl]-2-benzhydryloxycarbonyl-8-oxo-7-[(thien-2-yl)-acetamido]-5-thia-1-azabicyclo[4.2.0]oct-2-ene (1.5 g) is treated with formic acid (25 cc) and anisole (5 cc) at 50° C. for 20 minutes. 3-[2-(4-acetamido-phenyl)-thiazol-5-yl]-2-carboxy-8-oxo-7-[(thien-2-yl)-acetamido]-5-thia-1-azabicyclo[4.2.0]oct-2-ene (0.99 g) is obtained in the form of a yellow solid.

reactant | 3-[2-(4-acetamido-phenyl)-thiazol-5-yl]-2-benzhydryloxycarbonyl-8-oxo-7-[(thien-2-yl)-acetamido]-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 1.5 g | C(C)(=O)NC1=CC=C(C=C1)C=1SC(=CN1)C1=C(N2C(C(C2SC1)NC(CC=1SC=CC1)=O)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C37H30N4O5S3
reactant | anisole | 5 cc | C1(=CC=CC=C1)OC | C7H8O
solvent | formic acid | 25 cc | C(=O)O | CH2O2
product | 3-[2-(4-acetamido-phenyl)-thiazol-5-yl]-2-carboxy-8-oxo-7-[(thien-2-yl)-acetamido]-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 0.99 g | C(C)(=O)NC1=CC=C(C=C1)C=1SC(=CN1)C1=C(N2C(C(C2SC1)NC(CC=1SC=CC1)=O)=O)C(=O)O | C24H20N4O5S3
